US04221919
A solution comprising 108.1 grams of anisole in 450 ml of benzene was cooled to 2° C. and then saturated with gaseous hydrogen chloride for a period of 3 hours at a maximum temperature of 5° C. Then 38.6 grams of paraformaldehyde was added thereto at 20° C. and, following the addition, the reaction mixture was heated to 45° C. and maintained thereat for 1 hour and again cooled to 20° C. Following, gaseous hydrogen chloride was introduced for an additional 5 hours. Next, the aqueous layer was separated and the benzene solution washed with a saturated solution of calcium chloride in eight 150 ml portions and dried over magnesium sulfate. The residue was distilled in vacuum to yield 102.7 grams (65.7%) of 4-methoxybenzyl chloride, b.p. 108°-110° C./12 Torr.

reactant | anisole | 108.1 grams | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrogen chloride | Cl | ClH
reactant | paraformaldehyde | 38.6 grams | C=O | CH2O
solvent | benzene | 450 ml | C1=CC=CC=C1 | C6H6
product | 4-methoxybenzyl chloride | 102.7 grams, 65.7% | COC1=CC=C(CCl)C=C1 | C8H9ClO
